US05948339
Di(3-pentynyl) maleate (DPTNM).
15 g of 3-pentyn-1-ol was reacted with 8.35 g of maleic anhydride in 25 ml of toluene and in the presence of one drop of methanesulfonic acid. 11.5 g of DPTNM was isolated from the reaction mixture (bp=134-140° C./full vacuum GC purity=98.8%). 1H NMR data: 1.77(t, J=3 Hz, CH3), 2.52 (m, CH2CC), 4.22(t, J=7 Hz, CH2 --O), 6.22(s, maleate olefin CHs).

reactant | 3-pentyn-1-ol | 15 g | C(CC#CC)O | C5H8O
reactant | maleic anhydride | 8.35 g | C1(\C=C/C(=O)O1)=O | C4H2O3
solvent | toluene | 25 ml | C1(=CC=CC=C1)C | C7H8
catalyst | methanesulfonic acid | one drop | CS(=O)(=O)O | CH4O3S
product | Di(3-pentynyl) maleate | C(\C=C/C(=O)OCCC#CC)(=O)OCCC#CC | C14H16O4
